US04032652
A solution of 1.5 g. (0.01 m.) of p-ureidoaniline in 50 ml. of methanol is added to a solution of 2.1 g. (0.01 m.) of 3,5-diacetyl-4,6-dihydroxy 2H-pyran-2-one in 150 ml. of methanol. A solid is formed immediately and the mixture is refluxed for 12 hours. The filtered solid is recrystallized to give 5-acetyl-4-hydroxy-3-[1-(p-ureidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 250°-253° C.

reactant | p-ureidoaniline | N(C(=O)N)C1=CC=C(N)C=C1 | C7H9N3O
reactant | 3,5-diacetyl-4,6-dihydroxy 2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(p-ureidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)NC(=O)N)O | C16H15N3O6
